Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 
s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, recently 
diagnosed high-grade CNS B cell lymphoma (brain stem) s/p brain 
biopsy, on high-dose MTX (started 
___ and dexamethasone, presenting for cycle 4 of high dose 

methotrexate.

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient his PCP was concerned about breakthrough on 
suppressive acyclovir and started him on treatment doses of 
valacyclovir 1g BID. 

Today he feels well but says last week he had several sleepless 
nights. tried trazadone but made him dizzy. tried AMbien, didn't 
work. He had a terrible headache so went to ___ for 
evaluation and had a head CT which showed post surgical changes 
but no other concerning findings. He subsequently slept well and 
the headache improved. His vision is improving but not back to 
normal. He has stable gait imbalance. He denies any new 
neurologic symptoms. 

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies cough, 
shortness of breath, or wheezing. Denies chest pain, chest 
pressure, or weakness. Denies nausea, vomiting, diarrhea, 
constipation, abdominal pain. Denies dysuria, arthralgias or 
myalgias. Denies rashes or skin changes. All other ROS negative  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX

PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
Physical Examination:
VS: 98.5   112/69    79   18    98%RA
GEN: Alert, oriented to name, place and situation. no acute 
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, 
MMM.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no 
sensory loss
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups
PSYCH: Appropriate and calm.

 
Pertinent Results:
==================================
              Labs
==================================
___ 12:11PM BLOOD WBC-4.6# RBC-4.07* Hgb-12.5* Hct-36.6* 
MCV-90 MCH-30.8 MCHC-34.2 RDW-18.1* Plt ___
___ 05:30AM BLOOD WBC-2.6* RBC-3.81* Hgb-11.5* Hct-35.9* 
MCV-94 MCH-30.2 MCHC-32.1 RDW-18.6* Plt ___
___ 12:11PM BLOOD ___ PTT-26.7 ___
___ 12:11PM BLOOD Glucose-134* UreaN-19 Creat-0.7 Na-135 
K-4.4 Cl-100 HCO3-26 AnGap-13
___ 05:30AM BLOOD Glucose-117* UreaN-17 Creat-0.7 Na-138 
K-4.2 Cl-99 HCO3-31 AnGap-12
___ 12:11PM BLOOD ALT-33 AST-20 LD(LDH)-302* AlkPhos-77 
TotBili-0.6
___ 05:30AM BLOOD ALT-32 AST-18 AlkPhos-67 TotBili-0.8
___ 12:11PM BLOOD Albumin-4.1 Calcium-8.9 Phos-3.7 Mg-2.0
___ 05:05AM BLOOD Calcium-8.5 Phos-3.3 Mg-1.9
___ 05:05AM BLOOD mthotrx-0.29
___ 05:30AM BLOOD mthotrx-0.08

==================================
            Radiology            
==================================

MRI head ___ prelim report
FINDINGS:
 
There has been interval removal of a right frontal external 
ventricular drain
with some areas of blooming susceptibility along the tract 
likely related to
residual blood products. The patient is status post biopsy of a 
___
ventricular mass through a right suboccipital approach with 
associated mild T1
intrinsic hyperintensity and blooming susceptibility within the 
right aspect
of the ___ ventricle likely related to residual blood products. 
The
previously noted enhancing mass within the ___ ventricle is no 
longer
identified; there is some mild residual enhancement and adjacent 
parenchymal
high T2/FLAIR hyperintensity.
 
There is no evidence of acute intracranial infarct or 
hemorrhage. There are
nonspecific small scattered T2/FLAIR high signal foci throughout 
the brain.
Gray white matter differentiation is otherwise maintained. 
Ventricles and
extra axial spaces are also otherwise within normal limits for 
age. The major
intracranial vessels exhibit the expected signal void related to 
vascular
flow.
 
The paranasal sinuses demonstrate scattered areas of mucosal 
thickening.
Fluid signal and inflammatory changes are noted within scattered 
right greater
than left mastoid air cells. The sella turcica, craniocervical 
junction, and
orbits are unremarkable.
 
IMPRESSION:
 
Previously identified enhancing ___ ventricular mass is no 
longer present;
however, there is some mild residual enhancement and adjacent 
parenchymal high
T2/FLAIR hyperintensity abbout the right aspect of the ___ 
ventricle. 
 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 4 high dose 
methotrexate treatment. After urinary alkalinization, he 
received 6g/m2 = 12240mg of methotrexate on ___. This was 
followed by leucovorin rescue 24 hours later. His methotrexate 
level on ___ is 0.08 and he will be discharged home in good 
condition. He had an MRI while here which showed good response 
but one area of residual disease. He will continue on biweekly 
methotrexate and has been asked to report back to ___ on 
___ for the next cycle. 
For his HIV, HSV, CAD, and hypertension he was continued on his 
home meds as detailed below. 

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Dexamethasone 1 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
11. ValACYclovir 1000 mg PO Q12H 

 
Discharge Medications:
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Lopinavir-Ritonavir 2 TAB PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pravastatin 40 mg PO DAILY 
7. ValACYclovir 1000 mg PO Q12H 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Dexamethasone 1 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for treatment of 
your brain lymphoma with high dose methotrexate chemotherapy. 
You tolerated the chemo very well with no complications. You 
should return to ___ in 2 weeks for your next treatment.
 
Followup Instructions:
___